US04812164
using 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with phosphorus oxychloride and pyridine within 20 minutes at 30°-35° C. and thereafter for 1 hour at 70° C. there is obtained 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 101°-103° C.;

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C14H11ClF4N2O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | ClC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C14H10Cl2F4N2O2
